US08957203B2
Step 3: Preparation of 4,6-dimethoxyisoquinolin-1(2H)-one
To a solution of 7-fluoro-6-methoxyisoquinolin-1(2H)-one (7 g, 40.0 mmol) in methanol (70 ml) was added iodozobenzenediacetate (14.16 g, 40.0 mmol) followed by methane sulphonic acid (11.52 g, 120 mmol) at room temperature. The reaction mass was heated at reflux for 3 h. The solvent was evaporated and the residue was diluted with cold water. The precipitated solid was filtered, washed with water to get crude compound (4 g, 48.8%) as a light red colored solid. 1H NMR (400 MHz, DMSO): δ ppm 8.11-8.09 (d, J=8 Hz, 1H), 7.19 (s, 1H), 7.13-7.11 (d, J=8 Hz, 1H), 6.72-6.71 (d, J=12 Hz, 1H), 3.89 (s, 3H), 3.79 (s, 3H); MS: MS m/z 206.1 (M++1).

reactant | 7-fluoro-6-methoxyisoquinolin-1(2H)-one | 40.0 mmol, 7 g | FC1=C(C=C2C=CNC(C2=C1)=O)OC | C10H8FNO2
reactant | methane sulphonic acid | 120 mmol, 11.52 g | CS(=O)(=O)O | CH4O3S
reactant | methanol | 70 ml | CO | CH4O
product | 4,6-dimethoxyisoquinolin-1(2H)-one | 4 g, 48.8% | COC1=CNC(C2=CC=C(C=C12)OC)=O | C11H11NO3
